US05418232
1) Dimethyl 3,4-Dihydro-2,2-dimethyl-4-oxo-2H-1-benzopyran-6,7-dicarboxylate:
In 100 ml of acetone was dissolved 4.2 g of dimethyl 4-acetyl-5-hydroxyphthalate synthesized in accordance with the process of Bulletin of the Chemical Society of Japan, Vol. 57, p. 3221 (1984). To the solution were added 1.0 ml of pyrrolidine and a small amount of Molecular Sieve (3A), followed by stirring at room temperature for 3 days. Any insoluble material was removed by filtration, and the solvent was removed by distillation under reduced pressure. The residue was purified by silica gel column chromatography to obtain 4.6 g (86.3%) of a yellow oily substance.

reactant | dimethyl 4-acetyl-5-hydroxyphthalate | 4.2 g | C(C)(=O)C=1C=C(C(C(=O)OC)=CC1O)C(=O)OC | C12H12O6
reactant | pyrrolidine | 1.0 ml | N1CCCC1 | C4H9N
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | Dimethyl 3,4-Dihydro-2,2-dimethyl-4-oxo-2H-1-benzopyran-6,7-dicarboxylate | CC1(OC2=C(C(C1)=O)C=C(C(=C2)C(=O)OC)C(=O)OC)C | C15H16O6
